US07109192B2
1f) 2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
2.38 g (17.2 mmol) of potassium carbonate and 1.07 ml (17.20 mmol) of iodomethane were added to a suspension of 5.3 g (17.19 mmol) of 2-mercapto-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one in 100 ml of dichloromethane and 100 ml of methanol and stirred overnight at ambient temperature. Then the solvent was evaporated off, the residue was combined with approx. 30 ml of water, acidified with 2N hydrochloric acid, the product thus obtained was suction filtered, washed again with water and dried.

reactant | potassium carbonate | 17.2 mmol, 2.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 17.20 mmol, 1.07 ml | IC | CH3I
reactant | 2-mercapto-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 17.19 mmol, 5.3 g | SC=1NC2=C(C=NN(C2=O)CC2=CC=CC3=CC=CC=C23)N1 | C16H12N4OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
product | 2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | CSC=1NC2=C(C=NN(C2=O)CC2=CC=CC3=CC=CC=C23)N1 | C17H14N4OS
